US09328124B2
2-[2-[(4aR,7aR)-2-Amino-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-pyrimidin-4-yl]propan-2-ol hydrochloride
2-[2-[(4aR,7aR)-2-amino-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-pyrimidin-4-yl]propan-2-ol (120 mg, 0.308 mmol) is dissolved in 0.1 M HCl (3.1 mL) and acetonitrile (1 mL). The resulting solution is freeze dried to obtain the title compound as a white solid. ES/MS (m/e): 390 (M+1).

reactant | 2-[2-[(4aR,7aR)-2-amino-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-pyrimidin-4-yl]propan-2-ol | 0.308 mmol, 120 mg | NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C(=N2)C(C)(C)O)F)C2=NC=CN=C2 | C17H20FN7OS
reactant | HCl | 0.1 M, 3.1 mL | Cl | ClH
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-[2-[(4aR,7aR)-2-Amino-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-pyrimidin-4-yl]propan-2-ol hydrochloride | Cl.NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C(=N2)C(C)(C)O)F)C2=NC=CN=C2 | InChI=1S/C17H20FN7OS.ClH/c1-16(2,26)13-11(18)5-22-15(23-13)25-7-10-8-27-14(19)24-17(10,9-25)12-6-20-3-4-21-12;/h3-6,10,26H,7-9H2,1-2H3,(H2,19,24);1H/t10-,17-;/m0./s1
